US06458780B1
A solution of 1.88 g of 3,7-bis(methylthio)-2-trimethylsilylimidazo[5,1-b]thiazole in 50 ml of THF was ice cooled. A 1 M tetra-n-butylammonium fluoride/THF solution (8.16 ml) was added in an argon atmosphere to the solution. The mixture was stirred at the same temperature for one hr. Brine was added thereto, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 1.30 g of 3,7-bis(methylthio)imidazo[5,1-b]thiazole.

reactant | 3,7-bis(methylthio)-2-trimethylsilylimidazo[5,1-b]thiazole | 1.88 g | CSC=1N2C(SC1[Si](C)(C)C)=C(N=C2)SC | C10H16N2S3Si
reactant | tetra-n-butylammonium fluoride THF | 1 M, 8.16 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 3,7-bis(methylthio)imidazo[5,1-b]thiazole | 1.30 g | CSC=1N2C(SC1)=C(N=C2)SC | C7H8N2S3
